US04822818
L-Alanyl-N-(5,6-dimethoxyindan-1-yl)glycine tert-butyl ester (4.0 g) is dissolved in 80 ml of ethanol, and 0.77 g of sodium acetate, 4.0 g of acetate acid, 4.0 g of ethyl 2-oxo-4-phenyl-butyrate, 12 g of molecular sieve 3A and 6.0 g of Raney nickel are added. Thereafter, the reaction and treatment are carried out as in Example 2 to give 2.0 g of N-(1-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-N-(5,6-dimethoxyindan-1-yl)glycine tert-butyl ester as slightly yellow oil.

reactant | L-Alanyl-N-(5,6-dimethoxyindan-1-yl)glycine tert-butyl ester | 4.0 g | C(C)(C)(C)OC(CN(C1CCC2=CC(=C(C=C12)OC)OC)C([C@@H](N)C)=O)=O | C20H30N2O5
reactant | sodium acetate | 0.77 g | C(C)(=O)[O-].[Na+]
reactant | acetate | 4.0 g | C(C)(=O)[O-]
reactant | ethyl 2-oxo-4-phenyl-butyrate | 4.0 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Raney nickel | 6.0 g | [Ni] | Ni
product | N-(1-ethoxycarbonyl-3-phenylpropyl)-L-alanyl-N-(5,6-dimethoxyindan-1-yl)glycine tert-butyl ester | 2.0 g | C(C)(C)(C)OC(CN(C1CCC2=CC(=C(C=C12)OC)OC)C([C@@H](NC(CCC1=CC=CC=C1)C(=O)OCC)C)=O)=O | C32H44N2O7
